US09371285B2
Into a 250 mL round-bottom flask was placed a solution of 3-(pyridin-4-yl)benzaldehyde (10 g, 54.6 mmol, 1 equiv) in MeOH (200 mL), NaBH3CN (10.33 g, 164 mmol, 3 equiv) and CH3NH2.HCl (18.44 g, 273 mmol, 5 equiv). The mixture was stirred overnight at 60° C. The solvents were removed under reduced pressure. The residue was added to 100 mL of H2O and extracted with 5×200 mL of ethyl acetate. After removal of solvent, the crude product was purified by re-crystallization from ethyl acetate to give 5 g of N-methyl-(3-(pyridin-4-yl)phenyl)methylamine as a white solid.

reactant | 3-(pyridin-4-yl)benzaldehyde | 54.6 mmol, 10 g, 1 equiv | N1=CC=C(C=C1)C=1C=C(C=O)C=CC1 | C12H9NO
reactant | NaBH3CN | 164 mmol, 10.33 g, 3 equiv | [BH3-]C#N.[Na+]
reactant | CH3NH2.HCl | 273 mmol, 18.44 g, 5 equiv | CN.Cl
solvent | MeOH | 200 mL | CO | CH4O
product | N-methyl-(3-(pyridin-4-yl)phenyl)methylamine | 5 g | CNCC1=CC(=CC=C1)C1=CC=NC=C1 | C13H14N2
